US07977322B2
1-(4-Methoxy-benzyl)-cyclopropanecarbonitrile Sodium bis(trimethylsilyl)amide (2 M in tetrahydrofuran, 37.5 mL, 75.0 mmol) was slowly added to a solution of cyclopropanecarbonitrile (3.35 g, 49.9 mmol) in THF (30 mL) at room temperature. The reaction mixture was stirred for 20 minutes and then a solution 1-chloromethyl-4-methoxy-benzene (7.83 g, 50.0 mmol) in THF was added. The mixture was heated at reflux for 3 hours and then quenched with a saturated aqueous solution of ammonium chloride (50 mL). The separated aqueous layer was extracted three times with ethyl acetate (50 mL). The combined organic layers were washed with a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride, dried over sodium sulfate, filtered, and evaporated to dryness to give crude 1-(4-methoxy-benzyl)-cyclopropanecarbonitrile, which was used directly in the next step.

reactant | 1-(4-Methoxy-benzyl)-cyclopropanecarbonitrile Sodium bis(trimethylsilyl)amide | 75.0 mmol, 2 M, 37.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+].COC1=CC=C(CC2(CC2)C#N)C=C1
reactant | cyclopropanecarbonitrile | 49.9 mmol, 3.35 g | C1(CC1)C#N | C4H5N
reactant | 1-chloromethyl-4-methoxy-benzene | 50.0 mmol, 7.83 g | ClCC1=CC=C(C=C1)OC | C8H9ClO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-(4-methoxy-benzyl)-cyclopropanecarbonitrile | COC1=CC=C(CC2(CC2)C#N)C=C1 | C12H13NO
